US08198311B2
4-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3,3-dimethyl-4-phenylbutan-2-ol (15 mg, 0.038 mmol) in DCM (1 ml) was treated with commercially available Dess-Martin periodinane (25 mg, 0.058 mmol). The reaction was complete in 45 minutes and was filtered through a plug of SiO2 using DCM/hexane (3:1) and concentrated to give the crude product. The crude material was purified via chromatography on silica gel eluting with 14% ethyl acetate in hexane to afford 4-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3,3-dimethyl-4-phenylbutan-2-one as a white foam (15 mg, quantitative yield). 1H NMR (400 MHz, MeOD) δ ppm 8.20 (1 H, s) 7.81 (1 H, s) 7.70 (2 H, dd, J=9.16, 4.58 Hz) 7.60 (1 H, d, J=8.65 Hz) 7.38 (1 H, dd, J=8.65, 1.53 Hz) 7.23-7.35 (6 H, m) 7.19 (1 H, t, J=7.12 Hz) 4.67 (1 H, s) 2.05 (3 H, s) 1.26 (6 H, d, J=5.09 Hz). LC/MS (m/z) 387.20 [(M+1)+]; HPLC Rt: 3.758 min.

reactant | 4-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3,3-dimethyl-4-phenylbutan-2-ol | 0.038 mmol, 15 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(C)O)(C)C)C1=CC=CC=C1 | C25H25FN2O
reactant | Dess-Martin periodinane | 0.058 mmol, 25 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | 4-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3,3-dimethyl-4-phenylbutan-2-one | 15 mg, quantitative yield | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(C)=O)(C)C)C1=CC=CC=C1 | C25H23FN2O
